US08466193B2
To a solution of methyl 1-(2-(2-(morpholinomethyl)phenoxy)ethyl)-1H-indole-6-carboxylate (0.3 g, 0.83 mmol) in methanol (25 mL) was added a premixed (5 min) solution of NaOH (0.24 g, 6 mmol) and NH2OH (50% wt/wt in H2O, 1 mL) and H2O (2 mL). After stirring 5 hr at room temperature, the solution was concentrated and then diluted with H2O (30 mL) and the pH was adjusted to ˜9 with 1N HCl. The mixture was then extracted with ethyl acetate (100 mL) and concentrated to ˜3 mL and allowed to sit at room temperature for 16 hr. The resulting solid was isolated by filtration to provide 96 mg (29%) of 1-(2-(2-(morpholinomethyl)phenoxy)ethyl)-N-hydroxy-1H-indole-6-carboxamide as a tan solid. 1H NMR (300 MHz, DMSO) δ 11.11 (s, 1H), 8.90 (s, 1H), 8.03 (s, 1H), 7.62-7.55 (m, 2H), 7.44 (d, 1H, J=8.2 Hz), 7.19 (m, 2H), 6.90 (m, 2H), 6.50 (d, 1H, J=3.0 Hz), 4.63 (t, 2H, J=5.2 Hz), 4.30 (t, 2H, J=5.2 Hz), 3.43 (m, 4H), 3.18 (s, 2H), 2.12 (m, 4H). EM (calc.): 395.18; MS (M+H): 396.04.

reactant | methyl 1-(2-(2-(morpholinomethyl)phenoxy)ethyl)-1H-indole-6-carboxylate | 0.83 mmol, 0.3 g | O1CCN(CC1)CC1=C(OCCN2C=CC3=CC=C(C=C23)C(=O)OC)C=CC=C1 | C23H26N2O4
reactant | NaOH | 6 mmol, 0.24 g | [OH-].[Na+]
reactant | NH2OH | 1 mL | NO | H3NO
reactant | H2O | 2 mL | O | H2O
solvent | methanol | 25 mL | CO | CH4O
product | 1-(2-(2-(morpholinomethyl)phenoxy)ethyl)-N-hydroxy-1H-indole-6-carboxamide | 96 mg, 29% | O1CCN(CC1)CC1=C(OCCN2C=CC3=CC=C(C=C23)C(=O)NO)C=CC=C1 | C22H25N3O4
